US06087380
a) Methyl 6-methylamino-5-nitro-nicotinate
1.6 g (7.4 mMol) of methyl 6-chloro-5-nitro-nicotinate (see Bernie et al. in J. Chem. Soc. 1951, 2590) were stirred in 20 ml of 40% aqueous methylamine solution at room temperature for 30 minutes. The reaction mixture was then diluted with ice water, the yellow precipitate formed was filtered off and dried. Yield: 1.2 g (80% of theory), Rf value: 0.66 (silica gel; ethyl acetate/ethanol/glacial acetic acid=90:5:5)

reactant | methyl 6-chloro-5-nitro-nicotinate | 7.4 mMol, 1.6 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | methylamine | 20 ml | CN | CH5N
product | Methyl 6-methylamino-5-nitro-nicotinate | CNC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C8H9N3O4
